US06455528B1
(3) 1-(4,6-bis(Dimethylamino)pyrimidin-2-yl)piperazine
A solution of 1-acetyl-4-(4,6-bis(dimethylamino)pyrimidin-2-yl)piperazine (1.3 g) and sodium hydroxide (0.5 g) in ethanol (15 ml)—water (15 ml) was refluxed under heating for 9.5 hr. The reaction mixture was concentrated under reduced pressure, and ethyl acetate was added to the residue and the mixture was washed with brine. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated to give the title compound (0.9 g) as a pale-brown oil.

reactant | 1-acetyl-4-(4,6-bis(dimethylamino)pyrimidin-2-yl)piperazine | 1.3 g | C(C)(=O)N1CCN(CC1)C1=NC(=CC(=N1)N(C)C)N(C)C | C14H24N6O
reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
reactant | water | 15 ml | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-(4,6-bis(Dimethylamino)pyrimidin-2-yl)piperazine | 0.9 g | CN(C1=NC(=NC(=C1)N(C)C)N1CCNCC1)C | C12H22N6
